datasets/10k__Tet_Int.csv
SMILES Labelled
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)C)C1=CC=CC=C1)[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)C)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H][S:10]C([H])C(C)C(C)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C([H])[CH](C)[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)CCCCCC.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(CC)[O][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[O-:21][CH:20]2([H])C3=C(C(C([NH+:10]2([H]))C)O)C=CC=C3>>[NH:10]([H])C(C(C1=C(C=CC=C1)[CH:20]([H])=[O:21])O)C  21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]C)[NH]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)[H]>>[H]C1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21]C 10=20;20,21=21"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])C>>CC1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21][H] 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C)C>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21][H] 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH]([H])[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[S]2.[H][O:10][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)C.[O-:21][H]>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)C 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)CC)C)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C([O-:21])CC)C)C1=CC=CC=C1 10=20;20,21=21"
"[H][O:10]C(C)C(CC)[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C1CC[C:20](CC1)([O:10]CCCCCC)[Cl:21]>>C1CC[C:20](=[O+:10]CCCCCC)CC1.[Cl-:21] 10=20;20,21=21"
"[H][O:10]C([H])C(C)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O:10]C(CCC)C(O)C1[H]>>[O-:10]C(CCC)C(O)C([C:20](OC)=[O:21])[H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C([H])[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH]([H])[S]1 10=20;20,21=21"
"[O-:21][C:20]1([H])[O+:10]([Na])C(CC)C([H])=C1[H]>>[O:10]([Na])C(CC)/C([H])=C([C:20]([H])=[O:21])/[H] 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C(C)C(C)C([H])[O+:10]1([K])>>[O:10]([K])C([H])C(C)C(C)C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"C[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C)[S]C.[Cl-]>>[Cl-].C[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C)[S]C 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].[H][NH:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C)[NH][C:20]([O]CC)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C)[O]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH]C(CC)C(C)[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[NH]C(CC)C(C)[NH]1 10=20;20,21=21"
